US08242104B2
Following the procedure for 184, 9-bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine and 1-(2,2,2-trifluoroethyl)-1H-1,2,4-triazole were reacted to give 9-bromo-2-(1-(2,2,2-trifluoroethyl)-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine (0.109 g, 10%). 1H NMR (400 MHz, DMSO) δ 8.28 (t, J=21.9, 1H), 8.11 (t, J=7.9, 2H), 7.51-7.35 (m, 1H), 7.32 (d, J=2.0, 1H), 5.88 (q, J=8.8, 2H), 4.76-4.29 (m, 4H). MS (ESI(+)): m/z 413.9 (M+H).

reactant | 9-bromo-2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | BrC1=CC2=C(C=3N(CCO2)C=C(N3)I)C=C1 | C11H8BrIN2O
reactant | 1-(2,2,2-trifluoroethyl)-1H-1,2,4-triazole | FC(CN1N=CN=C1)(F)F | C4H4F3N3
product | 9-bromo-2-(1-(2,2,2-trifluoroethyl)-1H-1,2,4-triazol-5-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine | 0.109 g, 10% | BrC1=CC2=C(C=3N(CCO2)C=C(N3)C3=NC=NN3CC(F)(F)F)C=C1 | C15H11BrF3N5O
